US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (1000 mg, 4.52 mmol) in THF (10 ml) at −78° C. was added dropwise tert-butyllithium 1.7 M in pentane (5316 μl, 9.04 mmol) and the solution was stirred for 0.5 h before addition of N,N-dimethylcyanamide (317 mg, 4.52 mmol) in THF (10 ml). The resulting solution was warmed to rt and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl, and extracted with EtOAc. The organic layer was collected, dried over sodium sulfate, filtered, followed by removal of solvent under vacuum to give 3-(dimethylamino)-6-methoxyisoquinolin-1-ol (700 mg, 71% yield) which was carried to the next step without further purification. MS: MS m/z 219.1 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 4.52 mmol, 1000 mg | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 9.04 mmol, 5316 μl | CCCCC | C5H12
reactant | N,N-dimethylcyanamide | 4.52 mmol, 317 mg | CN(C#N)C | C3H6N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(dimethylamino)-6-methoxyisoquinolin-1-ol | 700 mg, 71% yield | CN(C=1N=C(C2=CC=C(C=C2C1)OC)O)C | C12H14N2O2
